US07906660B2
7-Acetoxy-4′-methoxy-8-methylisoflavone was prepared from 7-hydroxy-4′-methoxy-8-methylisoflavanone (3.0 g, 10.6 mmol), acetic anhydride (10 ml) and pyridine (2.0 ml) as described for 4′,7-diacetoxy-8-methylisoflavone. Yield: (2.0 g, 58%) m.p. 190-192° C. 1H NMR (CDCl3): δ 2.31 (s, 3H, CH3), 2.38 (s, 3H, OCOCH3), 3.84 (s, 3H, OMe), 6.98 (d, 2H, J 8.7 Hz, ArH), 7.12 (d, 1H, J 8.6 Hz, H6), 7.52 (d, 2H, J 8.7 Hz, ArH), 8.03 (s, 1H, H2), 8.18 (d, 1H, J 8.6 Hz, H5). Mass spectrum: 325 (M+1, 13%); 324 (M, 58%); 282 (100); 281 (42).

reactant | 7-hydroxy-4′-methoxy-8-methylisoflavanone | 10.6 mmol, 3.0 g | OC1=CC=C2C(C(COC2=C1C)C1=CC=C(C=C1)OC)=O | C17H16O4
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4′,7-diacetoxy-8-methylisoflavone | C(C)(=O)OC1=CC=C(C2=COC3=C(C(=CC=C3C2=O)OC(C)=O)C)C=C1 | C20H16O6
solvent | pyridine | 2.0 ml | N1=CC=CC=C1 | C5H5N
product | 7-Acetoxy-4′-methoxy-8-methylisoflavone | C(C)(=O)OC1=CC=C2C(C(=COC2=C1C)C1=CC=C(C=C1)OC)=O | C19H16O5
